US04277393
(9) Production of BOC-Gly-Asn-Leu-NHNH2
BOC-Gly-Asn-Leu-OBzl (5.0 g) was dissolved in 20 ml of methanol and 20 ml of 80% hydrazine hydrate was added thereto. The mixture was allowed to stand at room temperature overnight. Diethyl ether was added to the reaction mixture to ensure complete precipitation. The precipitate was collected by filtration, washed well with diethyl ether and re-precipitated from methanol-diethyl ether to obtain 3.9 g (yield 93.7%) of the desired material having a melting point of 204°-207° C. (dec.).

reactant | BOC-Gly-Asn-Leu-OBzl | 5.0 g | N(CC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H36N4O7
reactant | hydrazine hydrate | 20 ml | O.NN
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | BOC-Gly-Asn-Leu-NHNH2 | 3.9 g, yield 93.7% | N(CC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OC(C)(C)C | C17H32N6O6
